US04824958
Methyl 4,5-dibromo-3-(1-methylethoxy)-1-methyl-1H-pyrrole-2-carboxylate.
Methyl 4,5-dibromo-3-hydroxy-1-methyl-1H-pyrrole- 2-carboxylate (9.6 g, 0.03 moles) and potassium carbonate (5.0 g, 0.036 moles) are stirred in a mixture of acetone (100 mL) and DMF (15 mL) and heated to reflux under argon. After 22 hours the solvent is removed under reduced pressure and the residue is partitioned between CH2Cl2 (500 mL) and water (400 mL). The layers are separated and the aqueous phase is extracted with CH2Cl2 (300 mL). The combined organic extracts are washed with saturated brine (2×300 mL) and dried over MgSO4. Removal of the solvent under reduced pressure afforded the crystalline product (10.6 g); mp 42°-45° C.

reactant | Methyl 4,5-dibromo-3-hydroxy-1-methyl-1H-pyrrole- 2-carboxylate | 0.03 moles, 9.6 g | BrC=1C(=C(N(C1Br)C)C(=O)OC)O | C7H7Br2NO3
reactant | potassium carbonate | 0.036 moles, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 100 mL | CC(=O)C | C3H6O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Methyl 4,5-dibromo-3-(1-methylethoxy)-1-methyl-1H-pyrrole-2-carboxylate | 10.6 g | BrC=1C(=C(N(C1Br)C)C(=O)OC)OC(C)C | C10H13Br2NO3
